US04957928
At room temperature and while stirring, a solution of 36.4 g (0.19 mol) of 2-methoxycarbonylchroman in 400 ml of absolute tetrahydrofuran is added dropwise within a period of 1 hour to a suspension of 7.2 g (0.19 mol) of lithium aluminum hydride in 400 ml of absolute diethyl ether. After continuing to stir for a further 16 hours at room temperature, the reaction mixture is carefully decomposed with 7.2 ml of water, 7.2 ml of sodium hydroxide solution (15% strength) and 21.6 ml of water. The precipitate formed is filtered off with suction and the filtrate is concentrated by evaporation in vacuo. The oily residue is dissolved in diethyl ether. The ethereal solution is washed with water, dried over sodium sulphate and concentrated by evaporation in vacuo. 31 g (99.3%) of 2-hydroxymethylchroman are thus obtained in the form of a colourless oil.

reactant | 2-methoxycarbonylchroman | 0.19 mol, 36.4 g | COC(=O)C1OC2=CC=CC=C2CC1 | C11H12O3
reactant | lithium aluminum hydride | 0.19 mol, 7.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 7.2 ml | O | H2O
reactant | sodium hydroxide | 7.2 ml | [OH-].[Na+]
reactant | water | 21.6 ml | O | H2O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 400 ml | C(C)OCC | C4H10O
product | 2-hydroxymethylchroman | 31 g, 99.3% | OCC1OC2=CC=CC=C2CC1 | C10H12O2
